### PR TITLE
[Merged by Bors] - feat(Data/Set/Intervals): Ioo_union_both

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
If `a ≤ b`, then `(a, b) ∪ {a, b} = [a, b]`.

Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by shuxuezhuyi** [comment]
lake build success on my computer, but why not here?

File: Mathlib/Data/Set/Intervals/Basic.lean [hunk 1]
```diff
@@ -840,6 +840,16 @@ theorem Icc_diff_Ioo_same (h : a ≤ b) : Icc a b \ Ioo a b = {a, b} := by
   simp [insert_subset_iff, h]
 #align set.Icc_diff_Ioo_same Set.Icc_diff_Ioo_same
 
+theorem Icc_diff_Ioo_same' (h : a ≤ b) : (Icc a b \ {a, b}) ∪ {a, b} = Icc a b := by
+  refine diff_union_of_subset ?h
+  intro x hx
+  cases hx with
+  | inl h2 => rw [h2]; exact left_mem_Icc.mpr h
+  | inr h2 => rw [h2]; exact right_mem_Icc.mpr h
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Intervals/Basic.lean:848]: I don't think this lemma is useful, given that `Icc_diff_both` exists. Can you inline this into your other lemma?

File: Mathlib/Data/Set/Intervals/Basic.lean [hunk 2]
```diff
@@ -840,6 +840,16 @@ theorem Icc_diff_Ioo_same (h : a ≤ b) : Icc a b \ Ioo a b = {a, b} := by
...
+
+theorem Icc_diff_Ioo_same'' (h : a ≤ b) : Ioo a b ∪ {a, b} = Icc a b := by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Intervals/Basic.lean:850]: This should be called `Ioo_union_both` to match `Ioo_union_left`

**Review by eric-wieser — CHANGES_REQUESTED** [review]

File: Mathlib/Data/Set/Intervals/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Intervals/Basic.lean:850]: (There should also be an easy proof that goes via `Ioo_union_left` and `Ico_union_right`)

Comment (shuxuezhuyi) [reply Mathlib/Data/Set/Intervals/Basic.lean]: Done. 
However, I cannot use `Ioo_union_left` here, because I cannot deduce that `a < b`.​

File: Mathlib/Data/Set/Intervals/Basic.lean [hunk 3]
```diff
@@ -871,6 +871,15 @@ theorem Ioo_union_right (hab : a < b) : Ioo a b ∪ {b} = Ioc a b := by
...
 #align set.Ioo_union_right Set.Ioo_union_right
 
+theorem Ioo_union_both (h : a ≤ b) : Ioo a b ∪ {a, b} = Icc a b := by
+  have : (Icc a b \ {a, b}) ∪ {a, b} = Icc a b := by
+    refine diff_union_of_subset ?_
+    intro x hx
+    cases hx with
+    | inl h2 => rw [h2]; exact left_mem_Icc.mpr h
+    | inr h2 => rw [h2]; exact right_mem_Icc.mpr h
+  rw [← this, Icc_diff_both]
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Set/Intervals/Basic.lean:881]: Or golfing your proof:
```suggestion
theorem Ioo_union_both (h : a ≤ b) : Ioo a b ∪ {a, b} = Icc a b := by
  have : (Icc a b \ {a, b}) ∪ {a, b} = Icc a b := diff_union_of_subset fun
    | x, .inl rfl => left_mem_Icc.mpr h
    | x, .inr rfl => right_mem_Icc.mpr h
  rw [← this, Icc_diff_both]
```

**Review by eric-wieser — APPROVED** [review]
Thanks!

bors d+

Don't forget that you'll need to re-order the lemmas to make CI pass.
